US07612099B2
N-(2-{2-[(5-Benzyl-4-hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-(2-fluoro-phenyl)-methyl]-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 5-benzyl-4-hydroxy-5H-furan-2-one (Lit. 13) was reacted with 2-fluoro-benzaldehyde and N-[2-(1H-indol-3-yl)-ethyl]-acetamide) to give the title compound as a white solid. MS: 497.3 ([M−H]−).

reactant | 5-benzyl-4-hydroxy-5H-furan-2-one | C(C1=CC=CC=C1)C1C(=CC(O1)=O)O | C11H10O3
reactant | 2-fluoro-benzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | N-[2-(1H-indol-3-yl)-ethyl]-acetamide | N1C=C(C2=CC=CC=C12)CCNC(C)=O | C12H14N2O
product | N-(2-{2-[(5-Benzyl-4-hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-(2-fluoro-phenyl)-methyl]-1H-indol-3-yl}-ethyl)-acetamide | C(C1=CC=CC=C1)C1C(=C(C(O1)=O)C(C=1NC2=CC=CC=C2C1CCNC(C)=O)C1=C(C=CC=C1)F)O | C30H27FN2O4
